US07365095B2
To a solution of 5-fluoro-2-methoxy-2′-phenylbiphenyl (7.3 g, 26.2 mmol) in methylene chloride (100 mL) cooled to −78° C. was added through syringe boron tribromide (1.0 M in dichloromethane, 40.0 mL, 40.0 mmol). The reaction mixture was stirred and allowed to warm up to room temperature overnight. The resulting mixture was diluted with dichloromethane, washed with water and saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by ISCO using a solvent gradient of 0 to 40% ethyl acetate in hexanes provided 6.8 g (98%) of 5-fluoro-2′-phenylbiphenyl-2-ol as a light brown oil.

reactant | 5-fluoro-2-methoxy-2′-phenylbiphenyl | 26.2 mmol, 7.3 g | FC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC=C1)OC | C19H15FO
reactant | boron tribromide | 40.0 mmol, 1.0 M, 40.0 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-fluoro-2′-phenylbiphenyl-2-ol | 6.8 g, 98% | FC1=CC=C(C(=C1)C1=C(C=CC=C1)C1=CC=CC=C1)O | C18H13FO
